US09422292B2
A solution of 4-bromo-2-fluoro-1-nitrobenzene (10 g, 45.5 mol), methyl 3-aminopropanoate hydrochloride (6.4 g, 45.5 mol) and K2CO3 (19 g, 136.5 mol) in THF (250 mL) was heated at 100° C. for 4 hrs. The mixture was extracted with ethyl acetate (100 mL), washed with brine (150 mL), dried and concentrated to give the residue, which was purified by CombiFlash (PE:EA=2:1) to give methyl 3-((5-bromo-2-nitrophenyl)amino)propanoate (12 g, yield 88%). 1H NMR (300 MHz, CDCl3) δ 2.70-2.75 (t, J=6.6 Hz, 2H), 3.58-3.65 (m, 2H), 3.74 (s, 3H), 6.76-6.80 (m, 1H), 7.02-7.03 (d, J=2.1 Hz, 1H), 8.01-8.04 (d, J=9.0 Hz, 2H), 8.20-8.22 (br, 1H).

reactant | 4-bromo-2-fluoro-1-nitrobenzene | 45.5 mol, 10 g | BrC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | methyl 3-aminopropanoate hydrochloride | 45.5 mol, 6.4 g | Cl.NCCC(=O)OC
reactant | K2CO3 | 136.5 mol, 19 g | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | methyl 3-((5-bromo-2-nitrophenyl)amino)propanoate | 12 g, yield 88% | BrC=1C=CC(=C(C1)NCCC(=O)OC)[N+](=O)[O-] | C10H11BrN2O4
